US05830869
Preparation of (R)-[3-[(4,5-dihydro-5-thioxo-1,3,4-thiadiazol-2-yl)amino]-3-oxo-1-phenylpropyl]carbamic acid phenylmethyl ester
Carbonyldiimidazole (0.879 g, 5.42 mmol) is added to a solution of (R)-β-[[(phenylmethoxy)carbonyl]amino]benzenepropanoic acid (1.08 g, 3.62 mmol) in 25 mL THF under N2 at room temperature and allowed to stir for 0.5 hours. Diisopropylethylamine (0.63 mL, 3.6 mmol) and 5-amino-1,3,4-thiadiazole-2-thiol (0.482 g, 3.62 mmol) are added and the reaction is stirred at ambient temperature for 18 hours. The reaction is concentrated in vacuo, diluted with 50 mL CH2Cl2, and washed with (3×25 mL) 1 M citric acid. The organic phase is dried (Na2SO4), combined with the precipitate that formed in the aqueous phase, absorbed onto silica gel and chromatographed (2-5% MeOH/CH2 Cl2). The precipitate which formed in the fractions containing product is collected and dried to afford 0.217 g product as white needles.

reactant | Carbonyldiimidazole | 5.42 mmol, 0.879 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | (R)-β-[[(phenylmethoxy)carbonyl]amino]benzenepropanoic acid | 3.62 mmol, 1.08 g | C1(=CC=CC=C1)COC(=O)N[C@H](CC(=O)O)C1=CC=CC=C1 | C17H17NO4
reactant | Diisopropylethylamine | 3.6 mmol, 0.63 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 5-amino-1,3,4-thiadiazole-2-thiol | 3.62 mmol, 0.482 g | NC1=NN=C(S1)S | C2H3N3S2
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | (R)-[3-[(4,5-dihydro-5-thioxo-1,3,4-thiadiazol-2-yl)amino]-3-oxo-1-phenylpropyl]carbamic acid phenylmethyl ester | 0.217 g | C1(=CC=CC=C1)COC(N[C@H](CC(=O)NC=1SC(NN1)=S)C1=CC=CC=C1)=O | C19H18N4O3S2
